US07981883B2
12. Synthesis of 1-chloro-1-hydroxyiminomethyl-4-tert-butylbenzene
N-chlorosuccinimide (8.1 g, 61 mmol) was added to a solution of 4-tert-butylbenzaldehyde oxime (9 g, 50.1 mmol) in DMF (50 ml) at RT, causing the temperature to rise briefly to 50° C. The reaction mixture was cooled in an ice bath, stirred for 3 h at RT, mixed with water (100 ml) while being cooled with ice and extracted with ether (3×100 ml). The combined organic phases were washed with water (150 ml) and sat. aq. NaCl solution (150 ml), dried and the solvent was removed under vacuum. The desired product 1-chloro-1-hydroxyiminomethyl-4-tert-butylbenzene was obtained as a yellowish solid (10.7 g).

reactant | N-chlorosuccinimide | 61 mmol, 8.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-tert-butylbenzaldehyde oxime | 50.1 mmol, 9 g | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
reactant | water | 100 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-chloro-1-hydroxyiminomethyl-4-tert-butylbenzene | ClC1(CC=C(C=C1)C(C)(C)C)C=NO | C11H16ClNO
